US09035073B2
(+)-3-(3,4-difluorophenyl)-3-methoxypyrrolidine
Preparation according to Example 1. (+)-1-benzyl-3-(3,4-difluorophenyl)-3-methoxypyrrolidine (0.202 g, 0.66 mmol), 1,2-dichloroethane (20 ml), 1-chloroethyl chloroformate (0.38 g, 2.66 mmol) refluxed for 1 h, and methanol (20 ml) reflux 1 h Purification by HPLC on waters OBD C18, 5 μm (MeOH/33 mM NH3, 20:80 to 50:50) gave the title compound (0.111 g, 78%). [a]D=+5.8° (methanol). MS m/z (rel. intensity, 70 eV) 213 (M+, 1), 198 (44), 183 (84), 171 (bp), 141 (45).

reactant | (+)-1-benzyl-3-(3,4-difluorophenyl)-3-methoxypyrrolidine | 0.66 mmol, 0.202 g | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=CC(=C(C=C1)F)F | C18H19F2NO
reactant | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
reactant | 1-chloroethyl chloroformate | 2.66 mmol, 0.38 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methanol | 20 ml | CO | CH4O
product | (+)-3-(3,4-difluorophenyl)-3-methoxypyrrolidine | 0.111 g, 78% | FC=1C=C(C=CC1F)C1(CNCC1)OC | C11H13F2NO
